US06369086B1
5-Bromo-3-[ethoxymethylidene]-1H-pyrrolo[2,3-b]pyridin-2-one
This compound was synthesized from 5-bromo-1H-pyrrolo[2,3-b]pyridin-2-one and and diethoxymethyl acetate according to Procedure A. 1H NMR 400 MHz (DMSO-d6): δ11.02 (s, 1H); 8.07 (s, 1H); 7.88 (s, 1H); 7.71 (s, 1H); 4.40 (m, 2H); 1.34 (m, 3H).

reactant | 5-bromo-1H-pyrrolo[2,3-b]pyridin-2-one | BrC=1C=C2C(=NC1)NC(C2)=O | C7H5BrN2O
reactant | diethoxymethyl acetate | C(C)(=O)OC(OCC)OCC | C7H14O4
product | 5-Bromo-3-[ethoxymethylidene]-1H-pyrrolo[2,3-b]pyridin-2-one | BrC=1C=C2C(=NC1)NC(C2=COCC)=O | C10H9BrN2O2
